US05993780
f. 5-Amino-3-acetoxymethyl-2,4,6-triiodobenzoyl chloride
5-Amino-3-acetoxymethyl-2,4,6-triiodobenzoic acid (43.9 g, 0.075 mol) was suspended in 1,2-dichloroethane (40 ml) and thionyl chloride (24.9 ml, 0.34 mol) was added. The mixture was heated to reflux temperature for 3 h. After evaporation to dryness, the residue was dissolved in tetrahydrofuran (50 ml). Sodium hydrogen carbonate (15 g) and crystalline sodium carbonate (5 g) were added to the solution and the mixture was stirred at room temperature for 3 h. The mixture was filtered and the filtrate evaporated to dryness. After pump-drying, a foam was formed, yield 44.6 g (98%).

reactant | 5-Amino-3-acetoxymethyl-2,4,6-triiodobenzoic acid | 0.075 mol, 43.9 g | NC=1C(=C(C(=C(C(=O)O)C1I)I)COC(C)=O)I | C10H8I3NO4
reactant | thionyl chloride | 0.34 mol, 24.9 ml | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
product | 5-Amino-3-acetoxymethyl-2,4,6-triiodobenzoyl chloride | NC=1C(=C(C(=C(C(=O)Cl)C1I)I)COC(C)=O)I | C10H7ClI3NO3
